US08003787B2
Preparation of 3-(tert-butyldimethylsilanyloxy)phenylamine
6.81 g (100 mmol) of imidazole and 9.04 g (60 mmol) of tert-butyl-dimethylsilyl chloride are added to a solution of 5.46 g (50 mmol) of 3-aminophenol in 13.5 ml of N,N-dimethylformamide. The resulting reaction mixture is stirred at room temperature for 12 h. After addition of a saturated aqueous sodium chloride solution, the mixture is extracted with ethyl acetate. The organic phase is dried over sodium sulphate. The crude product obtained after removal of the solvent by distillation is purified by flash chromatography. 7.62 g (34 mmol, 68%) of the desired product are obtained.

reactant | imidazole | 100 mmol, 6.81 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-dimethylsilyl chloride | 60 mmol, 9.04 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 3-aminophenol | 50 mmol, 5.46 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 13.5 ml | CN(C=O)C | C3H7NO
product | 3-(tert-butyldimethylsilanyloxy)phenylamine | 34 mmol, 7.62 g, 68% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)N | C12H21NOSi
